US09193669B2
Tin(II) chloride dihydrate (3.28 g, 14.5 mmol) was added to a solution of (E)-2,2,2-trifluoro-N-(3-(3-nitrophenyl)allyl)acetamide (1.0 g, 3.64 mmol) in ethanol. The reaction mixture was stirred under reflux overnight. The mixture was concentrated under reduced pressure to give dark brown viscous liquid. The reaction mixture was partitioned between sat NaHCO3 and EtOAc and then filtered through Celite which was thoroughly washed with ethyl acetate. Organic layer was separated and concentrated under reduced pressure to give (E)-N-(3-(3-aminophenyl)allyl)-2,2,2-trifluoroacetamide as a brown liquid. Yield (0.8 g, 89%); 1H NMR (400 MHz, DMSO-d6) δ 9.70 (bs, 1H), 6.96 (t, J=7.8 Hz, 1H), 6.51-6.60 (m, 2H), 6.45-6.48 (m, 1H), 6.39 (d, J=16.0 Hz, 1H), 6.05-6.10 (m, 1H), 5.07 (bs, 2H), 3.95 (t, J=5.6 Hz, 2H); ESI MS m/z 243.09 [M−H]+.

reactant | Tin(II) chloride dihydrate | 14.5 mmol, 3.28 g | O.O.[Sn](Cl)Cl
reactant | (E)-2,2,2-trifluoro-N-(3-(3-nitrophenyl)allyl)acetamide | 3.64 mmol, 1.0 g | FC(C(=O)NC\C=C\C1=CC(=CC=C1)[N+](=O)[O-])(F)F | C11H9F3N2O3
solvent | ethanol | C(C)O | C2H6O
product | (E)-N-(3-(3-aminophenyl)allyl)-2,2,2-trifluoroacetamide | NC=1C=C(C=CC1)/C=C/CNC(C(F)(F)F)=O | C11H11F3N2O
